US05480874
Preparation of diethyl 4-[N-(1-methyl-1H-naphtho[1,2-d]-imidazol-2-yl)carbamoyl]benzylphosphonate
Using 2-amino-1-methyl-1H-naphtho[1,2-d]imidazole (commercially available) and 4-[(diethoxyphosphoryl)methyl]benzoyl chloride, the procedure of Example 1 was otherwise repeated to provide the objective compound.

reactant | 2-amino-1-methyl-1H-naphtho[1,2-d]imidazole | NC1=NC2=C(N1C)C1=CC=CC=C1C=C2 | C12H11N3
reactant | 4-[(diethoxyphosphoryl)methyl]benzoyl chloride | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)Cl)C=C1 | C12H16ClO4P
product | diethyl 4-[N-(1-methyl-1H-naphtho[1,2-d]-imidazol-2-yl)carbamoyl]benzylphosphonate | CN1C(=NC2=C1C1=CC=CC=C1C=C2)NC(=O)C2=CC=C(CP(OCC)(OCC)=O)C=C2 | C24H26N3O4P
